US04898987
Phenol/Acetone Generation using Unmodified Clay Catalyst
To a 250-ml round bottom flask fitted with a condenser, heater, stirrer and feed control, is charged a mixture of 60.0 g of acetone and 0.1 g of Engelhard Clay-24. The mixture is heated to reflux (57° C.) with stirring, and 40.0 g of "80%" cumene hydroperoxide solution added dropwise such that the pot temperature does not exceed 66° C.

reactant | cumene hydroperoxide | [O-]O.C1(=CC=CC=C1)C(C)C
solvent | acetone | 60.0 g | CC(=O)C | C3H6O
product | Phenol Acetone | C1(=CC=CC=C1)O.CC(=O)C | InChI=1S/C6H6O.C3H6O/c7-6-4-2-1-3-5-6;1-3(2)4/h1-5,7H;1-2H3
